US04041071
3-Bromo-N-ethylcinnamamide
Trans ethyl 3-bromocinnamate (8.4 g), ethylamine (6.7 g), methanol (18 ml) and 4A molecular sieves (1 g) were combined and heated at reflux for 1/2 hour. The mixture was cooled to about 45° C. and sodium methylate (0.6 g) added. The mixture was then heated at reflux 11/2 hour and then cooled. It was acidified with concentrated hydrochloric acid (12 ml). The sieves were removed by filtration. Ice water was added to the filtrate to precipitate trans 3-bromo-N-ethylcinnamamide, m.p. 89°-90° C. (after recrystallization from ethanol/water).

reactant | Trans ethyl 3-bromocinnamate | 8.4 g | BrC=1C=C(/C=C/C(=O)OCC)C=CC1 | C11H11BrO2
reactant | ethylamine | 6.7 g | C(C)N | C2H7N
reactant | sodium methylate | 0.6 g | C[O-].[Na+]
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | methanol | 18 ml | CO | CH4O
product | 3-Bromo-N-ethylcinnamamide | BrC=1C=C(C=CC(=O)NCC)C=CC1 | C11H12BrNO
